### PR TITLE
[Merged by Bors] - chore(Logic/IsEmpty): add `Function.Bijective.of_isEmpty`

### PR DESCRIPTION
**Pull request by chrisflav**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Review by grunweg — COMMENTED** [review]
Thanks! Do you also want to add a version for bijectivity?
bors d+

File: Mathlib/Logic/IsEmpty.lean [hunk 1]
```diff
@@ -233,3 +233,10 @@ theorem biTotal_iff_isEmpty_right [IsEmpty α] : BiTotal R ↔ IsEmpty β := by
 
 theorem biTotal_iff_isEmpty_left [IsEmpty β] : BiTotal R ↔ IsEmpty α := by
   simp only [BiTotal, leftTotal_iff_isEmpty_left, rightTotal_empty, and_true]
+
+lemma Function.Injective.of_isEmpty (f : α → β) [IsEmpty α] : f.Injective := IsEmpty.elim ‹_›
```
Comment (SnirBroshi) [inline Mathlib/Logic/IsEmpty.lean]: This is redundant given `Function.injective_of_subsingleton` (and the instance `IsEmpty.instSubsingleton`)

File: Mathlib/Logic/IsEmpty.lean [hunk 2]
```diff
@@ -233,3 +233,10 @@ theorem biTotal_iff_isEmpty_right [IsEmpty α] : BiTotal R ↔ IsEmpty β := by
...
+
+lemma Function.Surjective.of_isEmpty (f : α → β) [IsEmpty β] : f.Surjective := IsEmpty.elim ‹_›
+
+lemma Function.Bijective.of_isEmpty (f : α → β) [IsEmpty α] [IsEmpty β] : f.Bijective :=
```
Comment (SnirBroshi) [inline Mathlib/Logic/IsEmpty.lean]: You can remove `[IsEmpty α]` using `Function.isEmpty`, and then the separate surjectivity theorem might be redundant

File: Mathlib/Logic/IsEmpty.lean (hunk 1 above)
Comment (chrisflav) [reply Mathlib/Logic/IsEmpty.lean]: Oops, thanks.

**Review by SnirBroshi — APPROVED** [review]

**Comment by chrisflav** [comment]
bors merge
